US08334308B2
V.6; 3-(2-bromophenyl)propanenitrile
To a solution of commercially available 2-(2-bromophenyl)ethanol (1 eq.) in Benzene (0.064M) at room temperature was added acetone cyanohydrin (1.5 eq), 1-1′(Azodicarbonyl)dipiperidine (1.5 eq) then dropwise over 5 min triphenyl phosphine (1.5 eq). The mixture was stirred at room temperature for 12 h, diluted with hexane (0.03M) and filtered on pad of silica gel. Fractions containing the desired material were combined and concentrated. A second purification by column chromatography on silica gel (Combi-Flash by ISCO), eluting with Hex/EtOAc (0 to 30%, in 30 min) afforded the desired compound as a colorless oil.

reactant | 2-(2-bromophenyl)ethanol | 1 eq. | BrC1=C(C=CC=C1)CCO | C8H9BrO
reactant | acetone cyanohydrin | 1.5 eq | CC(C#N)(O)C | C4H7NO
reactant | triphenyl phosphine | 1.5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | Benzene | 0.064M | C1=CC=CC=C1 | C6H6
solvent | hexane | 0.03M | CCCCCC | C6H14
product | 3-(2-bromophenyl)propanenitrile | BrC1=C(C=CC=C1)CCC#N | C9H8BrN
